US07947691B2
1-(3′-Acetyl-biphenyl-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione
The title compound was prepared from 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) and 3-acetyl-phenyl boronic acid via general procedure C. The crude product was purified by mass-triggered preparative HPLC.

reactant | 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | BrC=1C=C(CN2C(N(C(C3=C2C=CS3)=O)O)=O)C=CC1 | C13H9BrN2O3S
reactant | 3-acetyl-phenyl boronic acid | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
product | 1-(3′-Acetyl-biphenyl-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | C(C)(=O)C=1C=C(C=CC1)C1=CC(=CC=C1)CN1C(N(C(C2=C1C=CS2)=O)O)=O | C21H16N2O4S
